US04855489
(±)-3-Amino-1-octadecyloxy-2-propyl acetate hydrochloride
2 a) (±)-3-methylamino-1-octadecyloxy-2-propyl acetate hydrochloride; m.p. 109°-113° C. from n-hexane; yield 61%.

reactant | (±)-3-methylamino-1-octadecyloxy-2-propyl acetate hydrochloride | Cl.C(C)(=O)OC(COCCCCCCCCCCCCCCCCCC)CNC
solvent | n-hexane | CCCCCC | C6H14
product | (±)-3-Amino-1-octadecyloxy-2-propyl acetate hydrochloride | Cl.C(C)(=O)OC(COCCCCCCCCCCCCCCCCCC)CN | InChI=1S/C23H47NO3.ClH/c1-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-26-21-23(20-24)27-22(2)25;/h23H,3-21,24H2,1-2H3;1H
